US05597823
3-Amino-2-carbomethoxy-5-Cyanothieno[3,2-b]pyridine
3-Amino-2-carbomethoxythieno[3,2-b]pyridine-4-oxide (3.1 g, 13.8 mmol) is stirred mechanically under N2 at 25° C. as dimethyl sulfate (1.3 mL, 14 mmol) is added dropwise. After stirring at 80° C. for 2 h, the reaction is cooled to 250C and the resulting solid is washed with acetone (50 mL) is added. The solid is dissolved in 10 mL H2O and is added dropwise to a 0° C. solution of KCN (2.7 g, 41 mmol) in H2O (10 mL). After stirring at 25° C. 18 h. The reaction was extracted with CH2Cl2. The organic layer was dried (MgSO4), filtered, concentrated, and chromatographed (CH2Cl2). 1.5 g (47%) of the title compound was obtained: 1H NMR (300 MHz, CDCl3) δ3.94 (s, 3H), 6.25 (bs, 2H), 7.70 (d, 1H), 8.20 (d, 1H); MS (DCI/NH3) m/e 234 (M+H)+.

reactant | 3-Amino-2-carbomethoxythieno[3,2-b]pyridine-4-oxide | 13.8 mmol, 3.1 g | NC1=C(SC=2C1=[N+](C=CC2)[O-])C(=O)OC | C9H8N2O3S
reactant | dimethyl sulfate | 14 mmol, 1.3 mL | S(=O)(=O)(OC)OC | C2H6O4S
reactant | KCN | 41 mmol, 2.7 g | [C-]#N.[K+]
solvent | H2O | 10 mL | O | H2O
product | 3-Amino-2-carbomethoxy-5-Cyanothieno[3,2-b]pyridine | 1.5 g, 47% | NC1=C(SC=2C1=NC(=CC2)C#N)C(=O)OC | C10H7N3O2S
